US08580794B2
2-chloro-5-methoxy-5-methylcyclohex-1-enecarbaldehyde
Dimethylformamide (1.298 mL) in dichloromethane (2.0 mL) at −10° C. was treated dropwise with POCl3 (1.426 mL) to give a colorless solution. The mixture was stirred 5 minutes and then warmed to room temperature and stirred 30 minutes. The solution was cooled to −10° C., treated dropwise with a solution of 4-methoxy-4-methylcyclohexanone (1.74 g) in dichloromethane (2.5 mL), and stirred for 4 hours at ambient temperature. The reaction mixture was poured over a mixture of ice and 25% aqueous sodium acetate solution. After the ice melted, the reaction mixture was poured into a separatory funnel and extracted with diethyl ether (4×125 mL). The diethyl ether extracts were washed with NaHCO3 solution and brine, dried (MgSO4), filtered and concentrated. The concentrate was chromatographed on silica gel with 0 to 5% ethyl acetate in hexanes as the eluent.

reactant | Dimethylformamide | 1.298 mL | CN(C=O)C | C3H7NO
reactant | POCl3 | 1.426 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 4-methoxy-4-methylcyclohexanone | 1.74 g | COC1(CCC(CC1)=O)C | C8H14O2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | 2-chloro-5-methoxy-5-methylcyclohex-1-enecarbaldehyde | ClC1=C(CC(CC1)(C)OC)C=O | C9H13ClO2
